US04144047
Preparation of 3-(α,α,α-Trifluoro-m-Tolyl)-4-Isothiazolecarboxamide.
A solution of 2.92 g (0.010 mol) of 3-(α,α,α-trifluoro-m-tolyl)-4-isothiazolecarbonyl chloride in 10 ml of THF was added to a solution of excess ammonia gas in THF stirred in a dry ice acetone bath. The mixture was slowly warmed to 23° with stirring. The solid NH4Cl was removed by filtration, and the filtrate was concentrated to about 20 ml. Then 100 ml of ether was added, and the solution was extracted with two portions of 10% Na2CO3 solution and once with saturated NaCl solution. The ether layer was dried (CaSO4 ) and concentrated to 2.25 g (83%) of white solid, m.p. 141°-141.5°; infrared (mineral oil mull) 2.92, 3.11, 6.09, 6.11 μ.

reactant | 3-(α,α,α-trifluoro-m-tolyl)-4-isothiazolecarbonyl chloride | 0.010 mol, 2.92 g | FC(C1=CC(=CC=C1)C1=NSC=C1C(=O)Cl)(F)F | C11H5ClF3NOS
reactant | ammonia | N | H3N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-(α,α,α-Trifluoro-m-Tolyl)-4-Isothiazolecarboxamide | FC(C1=CC(=CC=C1)C1=NSC=C1C(=O)N)(F)F | C11H7F3N2OS
